US06281353B1
7-Chloro-3-(5-chloromethyl-[1,2,4]oxadiazol-3-yl)-5-methyl-4,5-dihydro-imidazo[1,5-a][1,4]benzodiazepin-6-one.
8.0 g 7-Chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamidoxime and 1.0 g magnesium oxide were suspended under stirring and argon atmosphere in 160 ml 1,4-dioxane. 2.7 ml Chloracetyl chloride were added in one portion and the white thick gel obtained was stirred 4 hours at r.t. and then 17 hours at reflux to give a lightly orange fluid suspension. 100 ml Dioxane were distilled off and the reaction mixture was cooled to room temperature. 180 ml Deionized water were added within 15 minutes and the suspension was stirred 1 hour at r.t. The precipitate was filtered off, washed with 50 ml deionized water twice and dried under vacuum at 80° C. for 18 hours. Crude product: 8.3 g as a light pink powder. This crude product was dissolved in 120 ml tetrahydrofuran at reflux and 0.83 g active charcoal Darco G 60 were added. The system was refluxed 1 hour, then filtered on 25 g Dicalit-Speedex and the filter cake was washed with three portions of 50 ml warm tetrahydrofuran. The filtrate was concentrated at 40° C. under reduced pressure. The residue was digested in 80 ml ethanol 1 hour at reflux, then stirred 16 hours at r.t. and finally 2 hours at 2° C. The precipitate (7-chloro-3-(5-chloromethyl-[1,2,4]oxadiazol-3-yl)-5-methyl-4,5-dihydro-imidazo [1,5-a][1,4]benzo-diazepin-6-one (IX)) was filtered off, washed with 2 portions of 25 ml cold tert-butyl methyl-ether and dried under vacuum 5 hours at 80° C. Crude product: 7.6 g as a light beige powder. m.p. 234-238° C.

reactant | 7-Chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamidoxime | 8.0 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(N)=NO)C)=O | C13H12ClN5O2
reactant | magnesium oxide | 1.0 g | [O-2].[Mg+2]
reactant | Chloracetyl chloride | 2.7 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | 1,4-dioxane | 160 ml | O1CCOCC1 | C4H8O2
product | 7-Chloro-3-(5-chloromethyl-[1,2,4]oxadiazol-3-yl)-5-methyl-4,5-dihydro-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C1=NOC(=N1)CCl)C)=O | C15H11Cl2N5O2
